US03931255
42 g (0.21 mol) of iron (II) chloride tetrahydrate and 11 g (0.05 mol) of 8-nitro-1,4-naphthoquinone-1-oxime are introduced into 120 ml quantities of the solvents indicated in Table I below. While gaseous hydrogen chloride is slowly passed through them, the mixtures are left to react with continuous stirring at the temperatures indicated in Table I below until the respective reactions are complete. The increases in weight indicated in Table I below are obtained. After the reaction times specified in Table I, the mixtures are poured onto 500 ml of water heated to approximately 40°C, followed by stirring for 30 minutes. The 5-nitro-1,4-naphthoquinone formed is filtered off under suction, washed off under suction, washed with water until neutral and dried at 50°C. The yields of 5-nitro-1,4-naphthoquinone specified in Table I below in g and percent of the theoretical yield are obtained.

reactant | 8-nitro-1,4-naphthoquinone-1-oxime | 0.05 mol, 11 g | [N+](=O)([O-])C=1C=CC=C2C(C=CC(C12)=NO)=O | C10H6N2O4
reactant | hydrogen chloride | Cl | ClH
reactant | water | 500 ml | O | H2O
catalyst | iron (II) chloride tetrahydrate | 0.21 mol, 42 g | O.O.O.O.[Fe](Cl)Cl
product | 5-nitro-1,4-naphthoquinone | [N+](=O)([O-])C1=C2C(C=CC(C2=CC=C1)=O)=O | C10H5NO4
